US06320050B1
A mixture of 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester (990.0 mg, 2.54 mmol) and copper(I) cyanide (273.3 mg, 3.05 mmol) in dry N,N-dimethylformamide (2.5 mL) was heated under reflux for 4 h. The reaction was allowed to cool to 25° C., and the crude reaction mixture was directly purified without further chemical work-up. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 100% hexanes then 3/1 hexanes/ethyl acetate) afforded 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester (646.5 mg, 76%) as a very light yellow oil: EI-HRMS m/e calcd for C17H21NO4S (M+) 335.1191, found 335.1185.

reactant | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | 2.54 mmol, 990.0 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Br)=O | C16H21BrO4S
reactant | copper(I) cyanide | 3.05 mmol, 273.3 mg | [Cu]C#N
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | 646.5 mg, 76% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C#N)=O | C17H21NO4S
